US06869954B2
5) Preparation of 4-(4-benzyl-1-piperazinyl)methyl-2-isobutyl-6-(4-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-isobutyl-4-methanesulfonyloxymethyl-6-(4-methylphenyl)-2H-pyridazin-3-one and 1-benzylpiperazine were reacted to yield the title compound as a pale yellow oil (yield: 97.7%).

reactant | 2-isobutyl-4-methanesulfonyloxymethyl-6-(4-methylphenyl)-2H-pyridazin-3-one | C(C(C)C)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=C(C=C1)C | C17H22N2O4S
reactant | 1-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 4-(4-benzyl-1-piperazinyl)methyl-2-isobutyl-6-(4-methylphenyl)-2H-pyridazin-3-one | yield: 97.7% | C(C1=CC=CC=C1)N1CCN(CC1)CC=1C(N(N=C(C1)C1=CC=C(C=C1)C)CC(C)C)=O | C27H34N4O
